US07410976B2
1-Cyclopropyl-5-methoxy-isoquinoline-7-carboxylic acid methyl ester.
1-Cyclopropyl-5-hydroxy-isoquinoline-7-carboxylic acid methyl ester (5.00 g, 20.6 mmol) was dissolved in DMF (50 ml) and K2CO3 (5.69 g, 41.2 mmol) and MeI (1.54 ml, 24.7 mmol) was added thereto. After stirred at room temperature for 2 h, the reaction mixture was diluted with EtOAc and H2O. The aqueous layer was extracted with EtOAc and the organic layer was washed with brine, dried over MgSO4. The desiccant was removed through filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/EtOAc=10/0 to 6/4) to obtain the intended compound as a colorless solid.

reactant | 1-Cyclopropyl-5-hydroxy-isoquinoline-7-carboxylic acid methyl ester | 20.6 mmol, 5.00 g | COC(=O)C1=CC(=C2C=CN=C(C2=C1)C1CC1)O | C14H13NO3
reactant | K2CO3 | 41.2 mmol, 5.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 24.7 mmol, 1.54 ml | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 1-Cyclopropyl-5-methoxy-isoquinoline-7-carboxylic acid methyl ester | COC(=O)C1=CC(=C2C=CN=C(C2=C1)C1CC1)OC | C15H15NO3
